US05445762
4, 13-Bis(1-adamantylcarbonyl)-1,7,10,16-tetraoxa-4,13-diazacyclooctadecane
Analogously to Example 2 from 1,7,10,16-tetraoxa-4,13-diazacyclooctadecane and 1-adamantylcarbonyl chloride.

reactant | 1,7,10,16-tetraoxa-4,13-diazacyclooctadecane | O1CCNCCOCCOCCNCCOCC1 | C12H26N2O4
reactant | 1-adamantylcarbonyl chloride | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
product | 4, 13-Bis(1-adamantylcarbonyl)-1,7,10,16-tetraoxa-4,13-diazacyclooctadecane | C12(CC3CC(CC(C1)C3)C2)C(=O)N2CCOCCOCCN(CCOCCOCC2)C(=O)C23CC1CC(CC(C2)C1)C3 | C34H54N2O6
